US06518267B1
b) 3-(4-Methylpiperazinyl)-benzoic Acid tert-butyl Ester
3-Bromo-benzoic acid tert-butyl ester (6.7 g, 26 mmol), N-methyl piperizine (3.4 ml, 31.2 mmol), sodium t-butoxide (3.5 g, 36.4 mmol). 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (0.12 g, 0.195 mmol), tris(dibenzylideneacetone)dipalladium(0) (0.067 g, 0.065 mmol) were combined in toluene (200 ml), then was heated to 80 degrees C. Argon gas was then bubbled through the solution for 5 minutes. The reaction mixture was heated and stirred for 5 h. The reaction was then cooled to RT, concentrated in vacuo, and chromatographed (silica gel, 4% MeOH: CH2Cl2) to yield the title compound (4.12 g, 58%).

reactant | 3-Bromo-benzoic acid tert-butyl ester | 26 mmol, 6.7 g | C(C)(C)(C)OC(C1=CC(=CC=C1)Br)=O | C11H13BrO2
reactant | N-methyl piperizine | 31.2 mmol, 3.4 ml | CN1CCNCC1 | C5H12N2
reactant | sodium t-butoxide | 36.4 mmol, 3.5 g | CC(C)([O-])C.[Na+]
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.065 mmol, 0.067 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 0.195 mmol, 0.12 g | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
product | 3-(4-Methylpiperazinyl)-benzoic Acid tert-butyl Ester | 4.12 g, 58% | C(C)(C)(C)OC(C1=CC(=CC=C1)N1CCN(CC1)C)=O | C16H24N2O2
